US05166398
2,2-Dimethylpropanoic acid, 4-hydroxy-2,3,6-trimethylphenyl ester
A 500 mL round bottom flask is equipped with a stirring bar and charged with 15.2 g (100 mmol) of trimethylhydroquinone and 23.7 g (3×100 mmol) of pyridine in 100 mL dichloromethane. The solution is stirred at ambient temperature and a solution of 20.8 g (100 mmol) of pivaloyl chloride in 100 mL of dichloromethane is added over 15 minutes. The final solution is stirred at ambient temperature for 48 hours, then washed with 1×100 mL of 3N hydrochloric acid solution, 1×50 mL of 3N hydrochloric acid solution, water, dried (magnesium sulfate) and evaporated leaving 26.6 g (>100%) of a pale yellow solid, mp 88°-112° C. (after drying 24.1 g). Recrystallization from hexane in the presence of charcoal affords the title compound as colorless cubes; mp 119°-121° C.

reactant | trimethylhydroquinone | 100 mmol, 15.2 g | CC=1C(=C(C(=C(O)C1)C)C)O | C9H12O2
reactant | pyridine | 100 mmol, 23.7 g | N1=CC=CC=C1 | C5H5N
reactant | pivaloyl chloride | 100 mmol, 20.8 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2,2-Dimethylpropanoic acid, 4-hydroxy-2,3,6-trimethylphenyl ester | CC(C(=O)OC1=C(C(=C(C=C1C)O)C)C)(C)C | C14H20O3
